US04979978
Preparation of 4-Methyl-12H-dibenzo-[d,g][1,3]dioxocin-6-carboxylic Acid
(3-Methyl-2-hydroxyphenyl)(2-hydroxyphenyl)-methane (3.4 g, 16 mmol), potassium carbonate (8.84 g, 64 mmol), potassium iodide (0.53 g, 3.2 mmol), dichloroacetic acid (2.06 g, 16 mmol), and 65 ml of 2-propanol were heated at reflux with stirring under nitrogen for 30 hours. Another 2.05 g (16 mmol) of dichloroacetic acid was added and heating at reflux continued for 60 hours. The 2-propanol was then removed by evaporation under reduced pressure and the residue was diluted with distilled water and acidified with 2N hydrochloric acid. This mixture was extracted with ether and the ether extract was dried over magnesium sulfate and evaporated under reduced pressure to obtain 1.8 g (42 percent of theory) of the title compound as a solid residue. A purified sample melting at 171° C. was obtained by recrystallization from a mixture of methylcyclohexane and acetone. The proton nmr spectrum was consistent with the assigned structure.

reactant | (3-Methyl-2-hydroxyphenyl)(2-hydroxyphenyl)-methane | 16 mmol, 3.4 g | CC=1C(=C(C=CC1)CC1=C(C=CC=C1)O)O | C14H14O2
reactant | potassium carbonate | 64 mmol, 8.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.2 mmol, 0.53 g | [I-].[K+]
reactant | dichloroacetic acid | 16 mmol, 2.06 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | dichloroacetic acid | 16 mmol, 2.05 g | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | 2-propanol | 65 ml | CC(C)O | C3H8O
product | 4-Methyl-12H-dibenzo-[d,g][1,3]dioxocin-6-carboxylic Acid | CC1=CC=CC2=C1OC(OC1=C(C2)C=CC=C1)C(=O)O | C16H14O4
